US06114390
b) (R)-N-[[3-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino]methyl]-N2 -(diphenylacetyl)-ornithinamide
Prepared analogously to Example 4b) from (R)-N5 -[amino(nitroimino]methyl]-N2 -(diphenylacetyl)-ornithine, 3-(amino-carbonylaminomethyl)benzenemethanamine and TBTU in a yield of 50% of theory. Colourless amorphous substance.

reactant | (R)-N5 -[amino(nitroimino]methyl]-N2 -(diphenylacetyl)-ornithine | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)=N[N+](=O)[O-] | C20H23N5O5
reactant | 3-(amino-carbonylaminomethyl)benzenemethanamine | NC(=O)NCC=1C=C(C=CC1)CN | C9H13N3O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[3-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino]methyl]-N2 -(diphenylacetyl)-ornithinamide | yield of 50% | NC(=O)NCC=1C=C(C=CC1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=N[N+](=O)[O-])N)=O | C29H34N8O5
